US04310544
(+)-Mandelic acid (3.04 g.) was added to a stirred suspension of sodium hydride (1.92 g., 50% w/w dispersion in mineral oil) in dimethyl sulphoxide (50 ml.) at 15°-20° C., and the mixture was then stirred at the same temperature for 4 hours. 4-(4-Chlorophenyl)benzyl chloride (4.74 g.) was then added to the mixture and stirring was continued at room temperature for 1 hour. The resultant mixture was adjusted to pH 1-3 by careful addition of N-hydrochloric acid, and then extracted thoroughly with ether. The combined extracts were washed with water, dried (MgSO4) and evaporated. The solid residue obtained was recrystallised from a mixture of ethyl acetate and hexane to give (+)-2-[4-(4-chlorophenyl)benzyloxy]-2-phenylacetic acid (3.45 g.), m.p. 119°-121° C., [α]D25 +104° (C=1,CHCl3).

reactant | (+)-Mandelic acid | 3.04 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | sodium hydride | 1.92 g | [H-].[Na+]
reactant | 4-(4-Chlorophenyl)benzyl chloride | 4.74 g | ClC1=CC=C(C=C1)C1=CC=C(CCl)C=C1 | C13H10Cl2
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | (+)-2-[4-(4-chlorophenyl)benzyloxy]-2-phenylacetic acid | 3.45 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)C2=CC=CC=C2)C=C1 | C21H17ClO3
